US03998835
1-tert.butylamino-3-(2-methyl-4-thieno[3,2-c]pyridinyloxy)-2-propanol [process variant b)]
0.49 g of potassium are dissolved with heating in 60 cc of tert.butanol. After cooling, 1.5 g of 1-tert.butylamino-2,3-dihydroxypropane was added and subsequently 1.85 g of 4-chloro-2-methylthieno[3,2-c]pyridine was added. After stirring for one day at room temperature, heating is effected to 50° for a further day. The reaction solution is concentrated in a vacuum, the residue is taken up in 1 N hydrochloric acid and ether, the aqueous phase is neutralized with 2 N soda solution and extracted with methylene chloride. After drying over magnesium sulphate and concentrating, the title compound is obtained as an oil, which yields the hydrogen maleate having an M.P. of 210°-213°, with maleic acid in tetrahydrofuran.

reactant | potassium | 0.49 g | [K] | K
reactant | 1-tert.butylamino-2,3-dihydroxypropane | 1.5 g | C(C)(C)(C)NCC(CO)O | C7H17NO2
reactant | 4-chloro-2-methylthieno[3,2-c]pyridine | 1.85 g | ClC1=NC=CC2=C1C=C(S2)C | C8H6ClNS
solvent | tert.butanol | 60 cc | C(C)(C)(C)O | C4H10O
product | 1-tert.butylamino-3-(2-methyl-4-thieno[3,2-c]pyridinyloxy)-2-propanol | C(C)(C)(C)NCC(COC1=NC=CC2=C1C=C(S2)C)O | C15H22N2O2S
